US04923861
2-Chloro-4-(4-fluorophenyl)-3-quinolinecarboxaldehyde (5.28 g) and 15 ml of dimethylamine are dissolved in 75 ml of toluene. This mixture is autoclaved for 14 hours at 123°-136° C. The mixture is cooled, evaporated to dryness, and partitioned between ethyl acetate and a saturated aqueous solution of potassium carbonate. The ethyl acetate layer is dried (magnesium sulfate) and evaporated to give an orange oil. Chromatography (silica, 10% ethyl acetate/hexanes) gives 4.20 g of 2-(dimethylamino)-4-(4-fluorophenyl)-3-quinolinecarboxaldehyde as an orange solid; 1H NMR (chloroform-d): δ 9.73 (s, 1H), 7.78-6.96 (m, 8H), 3.10 (s, 6H) ppm.

reactant | 2-Chloro-4-(4-fluorophenyl)-3-quinolinecarboxaldehyde | 5.28 g | ClC1=NC2=CC=CC=C2C(=C1C=O)C1=CC=C(C=C1)F | C16H9ClFNO
reactant | dimethylamine | 15 ml | CNC | C2H7N
solvent | toluene | 75 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(dimethylamino)-4-(4-fluorophenyl)-3-quinolinecarboxaldehyde | 4.20 g | CN(C1=NC2=CC=CC=C2C(=C1C=O)C1=CC=C(C=C1)F)C | C18H15FN2O
